US07902248B2
(E)-(3-Chloro-4-methanesulfonyl-phenyl)-cyclopentyloxyimino-acetic acid methyl ester (144 mg, 0.40 mmol) was dissolved in methanol (4 mL) and cooled in an ice bath. A 2.0 N solution of lithium hydroxide in water (0.60 mL, 1.2 mmol) was added dropwise. After stirring 1 h, the reaction mixture was diluted with chloroform (50 mL) and washed with 0.1 M aqueous potassium bisulfate (25 mL). The aqueous phase was extracted with chloroform (30 mL) and the combined organic phases were dried over magnesium sulfate and evaporated in vacuo to afford (E)-(3-chloro-4-methanesulfonyl-phenyl)-cyclopentyloxyimino-acetic acid which was used in the next step without further purification: H1-NMR (400 MHz, CDCl3) δ=1.65 (4H, m), 1.88 (4H, m), 3.31 (3H, s), 4.97 (1H, m), 7.58 (1H, dd, J=8.2 Hz, J=1.1 Hz), 7.67 (1H, d, J=1.1 Hz), 8.19 (1H, d, J=8.2 Hz).

reactant | (E)-(3-Chloro-4-methanesulfonyl-phenyl)-cyclopentyloxyimino-acetic acid methyl ester | 0.40 mmol, 144 mg | COC(/C(=N/OC1CCCC1)/C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C15H18ClNO5S
reactant | lithium hydroxide | [OH-].[Li+]
reactant | water | 1.2 mmol, 0.60 mL | O | H2O
solvent | methanol | 4 mL | CO | CH4O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | (E)-(3-chloro-4-methanesulfonyl-phenyl)-cyclopentyloxyimino-acetic acid | ClC=1C=C(C=CC1S(=O)(=O)C)\C(\C(=O)O)=N/OC1CCCC1 | C14H16ClNO5S
